US04515948
A suspension of 31 g. of 3',5'-dimethoxy-4'-(methylamino)-2-(methylsulfonyl)-acetophenone and 16.3 g. of sodium borohydride in 600 ml. of ethanol was stirred at room temperature for 16 hours. The solution was diluted with 600 ml. of water and the alcohol was removed by distillation under vacuum. The crystals formed were filtered with suction, washed with water and dried, whereby there was obtained 3,5-dimethoxy-4-(methylamino)-α-[(methylsulfonyl)-methyl]-benzyl alcohol having a melting point of 141°-142° C.

reactant | 3',5'-dimethoxy-4'-(methylamino)-2-(methylsulfonyl)-acetophenone | COC=1C=C(C=C(C1NC)OC)C(CS(=O)(=O)C)=O | C12H17NO5S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3,5-dimethoxy-4-(methylamino)-α-[(methylsulfonyl)-methyl]-benzyl alcohol | COC=1C=C(C(CS(=O)(=O)C)O)C=C(C1NC)OC | C12H19NO5S
